US04831041
Methyl iodide (1.33 g) was added dropwise to a solution of 8-(2-cyanobenzyloxy)-3-dimethylaminomethyl-2-methylimidazo[1,2-a]pyridine (3 g) in the mixture of acetone (30 ml) and trichloromethane (30 ml) at room temperature and the mixture was stirred for 24 hours. The resulting precipitate was collected by filtration, washed with acetone, and dried in a desiccator to give 8-(2-cyanobenzyloxy)-2-methyl-3-trimethylammoniomethylimidazo[1,2-a]pyridine iodide.

reactant | Methyl iodide | 1.33 g | CI | CH3I
reactant | 8-(2-cyanobenzyloxy)-3-dimethylaminomethyl-2-methylimidazo[1,2-a]pyridine | 3 g | C(#N)C1=C(COC=2C=3N(C=CC2)C(=C(N3)C)CN(C)C)C=CC=C1 | C19H20N4O
reactant | acetone | 30 ml | CC(=O)C | C3H6O
solvent | trichloromethane | 30 ml | ClC(Cl)Cl | CHCl3
product | 8-(2-cyanobenzyloxy)-2-methyl-3-trimethylammoniomethylimidazo[1,2-a]pyridine iodide | [I-].C(#N)C1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C[N+](C)(C)C)C=CC=C1 | InChI=1S/C20H23N4O.HI/c1-15-18(13-24(2,3)4)23-11-7-10-19(20(23)22-15)25-14-17-9-6-5-8-16(17)12-21;/h5-11H,13-14H2,1-4H3;1H/q+1;/p-1
